US04997986
7-[(1-Naphthalenyl)methoxy]-2-heptanone
1-[[(5-Bromopentyl)oxy]methyl]naphthalene (9.96 g) in dry ether (40 ml) was added to magnesium turnings (0.94 g) and iodine (one small crystal) under nitrogen with stirring at a rate which maintained a gentle reflux. The mixture was stirred at reflux for 30 min, cooled to ambient temperature and added over 2.5 h to acetic anhydride (7.67 ml) in ether (15 ml) at -78° under nitrogen with vigorous stirring. After 2 h at -78°, the mixture was allowed to warm to -10° and treated with aqueous saturated ammonium chloride (50 ml). Ether (50 ml) was added, the aqueous layer was separated and the ethereal layer was washed with 1M-aqueous sodium hydroxide (100 ml). The combined aqueous washings were extracted with ether (100 ml) and this extract was combined with the ethereal layer above. The dried ethereal solution was evaporated and the residual oil purified FCC. Elution with ether-cyclohexane (1:4) gave, after Kugelrohr distillation, the title compound as a colourless oil (3.39 g), b.p. 190°/0.3 Torr (Kugelrohr).

reactant | 1-[[(5-Bromopentyl)oxy]methyl]naphthalene | 9.96 g | BrCCCCCOCC1=CC=CC2=CC=CC=C12 | C16H19BrO
reactant | magnesium | 0.94 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | acetic anhydride | 7.67 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | Ether | 50 ml | CCOCC | C4H10O
product | 7-[(1-Naphthalenyl)methoxy]-2-heptanone | C1(=CC=CC2=CC=CC=C12)COCCCCCC(C)=O | C18H22O2
